US05656645
Ethyl 2-methyl-pyrimidin-6(1H)-one-5-carboxylate
Acetamidine hydrochloride (37.16 g, 0.39 mole) was stirred in sodium ethoxide in ethanol (73 mL of a 21% solution, 0.20 mole) for 5 minutes. Diethyl ethoxymethylenemalonate (31.5 mL, 0.15 mole) was added, and the reaction mixture was refluxed for 5 hours. The reaction mixture was allowed to cool to room temperature overnight, and diluted with dichloromethane (100 mL). The solution was filtered, washing the solid cake with dichloromethane. The filtrate was concentrated at reduced pressure. The residue was dissolved in dichloromethane (150 mL) and 2.0N HCl (30 mL). The pH of the aqueous layer was 1. The organic layer was washed with water, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was dissolved in hot dichloromethane (50 mL). Ethyl acetate was added (50 mL). The product precipitated. The solution was boiled for 5 minutes, cooled to room temperature, and hexanes were added (50 mL). The resulting crystals were filtered, then washed with ethyl acetate (20 mL) followed by hexanes (50 mL) to yield the title compound (7.22 g, 27%) as off-white crystals. Rf =0.27 (silica gel, 10% isopropanol in dichloromethane). The title compound also was prepared by the route described in Example 102.

reactant | Acetamidine hydrochloride | 0.39 mole, 37.16 g | Cl.C(C)(=N)N
reactant | Diethyl ethoxymethylenemalonate | 0.15 mole, 31.5 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl 2-methyl-pyrimidin-6(1H)-one-5-carboxylate | 7.22 g, 27% | CC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3
